US04873236
4-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-e]pyrido[2,3-b][1,4]diazepin-10-one
Prepared analogously to Example 2 from 4-(chlorocarbonyl)-1,3-dimethyl-1,4,9,10-tetrahydro-pyrazolo[4,3-e]pyrido[2,3-b][1,4]diazepin-10-one and 2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine in a yield of 17% of theory. Colourless crystals, m.p. 138°-139° C. (acetonitrile).

reactant | 4-(chlorocarbonyl)-1,3-dimethyl-1,4,9,10-tetrahydro-pyrazolo[4,3-e]pyrido[2,3-b][1,4]diazepin-10-one | ClC(=O)N1C2=C(NC(C3=C1C(=NN3C)C)=O)N=CC=C2 | C12H10ClN5O2
reactant | 2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-e]pyrido[2,3-b][1,4]diazepin-10-one | yield of 17% | C(C)N(CC)CC1N(CCCC1)CCNC(=O)N1C2=C(NC(C3=C1C(=NN3C)C)=O)N=CC=C2 | C24H36N8O2
